US08648068B2
113.4 (2S,4S)-2-Acetoxymethyl-4-[2-(6-carbamoyl-5-methyl-thieno[2,3-d]pyrimidin-4-ylamino)-5-fluoro-phenoxy]-pyrrolidine-1-carboxylic acid tert-butyl ester
Prepared analogously to example 96.4 from 4-[2-((3S,5S)-1-tert-butoxycarbonyl-5-hydroxymethyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide and acetic anhydride. The acetic anhydride was added at 0° C. and a catalytic amount of DMAP was used.

reactant | 4-[2-((3S,5S)-1-tert-butoxycarbonyl-5-hydroxymethyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H]1CO)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C24H28FN5O5S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2S,4S)-2-Acetoxymethyl-4-[2-(6-carbamoyl-5-methyl-thieno[2,3-d]pyrimidin-4-ylamino)-5-fluoro-phenoxy]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(N)=O)COC(C)=O | C26H30FN5O6S
